US07294721B2
(R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl) -ethyl]-benzimidazole
To a solution of 93.9 g (0.15 mol) of (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(n-propyloxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole-hydrochloride×1 equivalent n-propanol in 470 mL methanol are added 13.3 g (0.33 mol) of solid sodium hydroxide and this mixture is refluxed for 1.5 hours under an inert gas atmosphere. It is allowed to cool to 50° C. and within 10 minutes 22.8 mL (0.18 mmol) of chlorotrimethylsilan are added dropwise thereto. The mixture is diluted with 470 mL of dimethylsulphoxide and 370 mL of methanol are distilled off at 300 mbar/80° C. To eliminate sodium chloride the suspension is filtered hot. The filtrate is cooled to 20° C. and stirred for 3 hours at 20° C. The suspension formed is suction filtered and the filter cake is washed with 50 mL dimethylsulphoxide and 100 mL acetone. The filter cake is dried at 50° C. in the circulating air drier. The title compound is obtained as a colourless solid.

reactant | (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(n-propyloxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole-hydrochloride | 0.15 mol, 93.9 g | Cl.C(N)(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)OCCC
reactant | n-propanol | 1 equivalent | C(CC)O | C3H8O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chlorotrimethylsilan | 0.18 mmol, 22.8 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | methanol | 470 mL | CO | CH4O
solvent | dimethylsulphoxide | 470 mL | CS(=O)C | C2H6OS
solvent | methanol | 370 mL | CO | CH4O
product | (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl) -ethyl]-benzimidazole | C(N)(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)O | C25H31N7O3
